US08580841B2
Step B: Preparation of Methyl 4-Cyclopentyl-3-(trifluoromethyl)benzoate.
To a solution of 4-chloro-3-(trifluoromethyl)benzoate (196.7 g, 824 mmol) in THF (100 mL), cyclopentylzinc(II) bromide (1979 mL, 989 mmol) was added dropwise at 7.8° C. The temperature at the end of the addition rose to 22° C. bis(Tri-t-butylphosphine)palladium (21.07 g, 41.2 mmol) was added to the dark brown solution at the same temperature, and the resulting mixture was stirred at 70° C. for 8 h. The mixture was added to saturated aqueous NaHCO3 (100 mL) at 0° C., stirred at the same temperature for 30 min and then at 22° C. for 2 h. The resulting suspension was filtered through Celite and the filtrate concentrated under vacuum. The solids were washed with EtOAc (3×300 mL), the filtrate was combined with the previous concentrate and the combined organics were washed with H2O (2×600 mL), brine (2×500 mL), dried (Na2SO4), decanted and concentrated under reduced pressure to give the title compound as an orange oil (227 g) without further purification. LCMS m/z=273.4 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.71-1.60 (m, 2H), 1.83-1.75 (m, 2H), 1.95-1.87 (m, 2H), 2.21-2.11 (m, 2H), 3.46 (quintet, J=8.8 Hz, 1H), 3.97 (s, 3H), 7.58 (d, J=8.4 Hz, 1H), 8.18 (dd, J=8.0 Hz, 1.6 Hz, 1H), 8.31 (d, J=1.6 Hz, 1H).

reactant | 4-chloro-3-(trifluoromethyl)benzoate | 824 mmol, 196.7 g | ClC1=C(C=C(C(=O)[O-])C=C1)C(F)(F)F
reactant | cyclopentylzinc(II) bromide | 989 mmol, 1979 mL | [Br-].C1(CCCC1)[Zn+]
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | bis(Tri-t-butylphosphine)palladium | 41.2 mmol, 21.07 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | Methyl 4-Cyclopentyl-3-(trifluoromethyl)benzoate | 227 g | C1(CCCC1)C1=C(C=C(C(=O)OC)C=C1)C(F)(F)F | C14H15F3O2
